US06410550B1
A) 1-(10-Aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone
(10-Aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene hydrochloride salt (12.4 g, 63.9 mmol) was stirred in CH2Cl2 (200 mL). This was cooled (ice bath) and treated with pyridine (12.65 g 160 mmol) followed by trifluoroacetic anhydride (TFAA) (16.8 g, 11.3 mL, 80 mmol) from an addition funnel over 10 minutes. After ˜3 hours, the solution was poured into 0.5N aqueous HCl (200 mL) and the layers separated. The aqueous layer was extracted with CH2Cl2 (3×50 mL) and the combined organic layer was washed with 0.5N aqueous HCl (50 mL), H2O (2×50 mL) and saturated aqueous NaHCO3 solution (50 mL)). This solution was dried through a cotton plug, then diluted with ˜3% EtOAc and filtered through a 2 inch Silica pad eluted with ˜3% EtOAc/CH2Cl2. Concentration afforded a clear oil which crystallized to give white needles (15.35 g, 60.2 mmol, 94%). (TLC 30% EtOAc/hexanes Rf0.53). 1H NMR (400 MHz, CDCl3) δ7.18 (m, 4H), 4.29 (br d, J=12.6 Hz, 1H), 3.84 (br d, J=12.6 Hz, 1H), 3.51 (dd, J=12.6,1.5 Hz, 1H), 3.21 (br s. 1H), 3.10 (br s, 1H), 3.10 (br d, J=12.6 Hz, 1H), 2.37 (m, 1H), 1.92 (d, J=10.8 Hz, 1H). GCMS m/e 255 (M+). mp 67-68° C.

reactant | 10-Aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene hydrochloride salt | 63.9 mmol, 12.4 g | Cl.C12C=3C=CC=CC3C(CNC1)C2
reactant | pyridine | 160 mmol, 12.65 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 80 mmol, 11.3 mL, 16.8 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | HCl | 0.5N, 200 mL | Cl | ClH
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-(10-Aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone | 60.2 mmol, 15.35 g, 94% | C12C=3C=CC=CC3C(CN(C1)C(C(F)(F)F)=O)C2 | C13H12F3NO
